US07199239B2
Intermediate 17: N-Butyl-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine
To a solution of butyraldehyde (0.114 mL, 1.26 mmol) in anhydrous CH2Cl2 under nitrogen, was added 4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine (0.3 g, 1.26 mmol). After 15 mins sodium triacetoxyborohydride (0.375 g, 1.77 mmol) was added portion wise, followed by acetic acid (0.072 mL, 1.26 mmol). After stirring the mixture for 18 h the reaction was quenched by cautious addition of sat. sodium bicarbonate aq. (20 mL) and extracted with CH2Cl2 (2×30 mL). The organic extract was separated by hydrophobic frit and the solvents removed in vacuo. Purification by SPE (Silica, 10 g) eluting with 99:1 cyclohexane:EtOAc, afforded the title compound as a colourless oil (0.25 g).

reactant | butyraldehyde | 1.26 mmol, 0.114 mL | C(CCC)=O | C4H8O
reactant | 4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine | 1.26 mmol, 0.3 g | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)N)(F)F | C13H10F3N
reactant | sodium triacetoxyborohydride | 1.77 mmol, 0.375 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.26 mmol, 0.072 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Butyl-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 0.25 g | C(CCC)NC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C17H18F3N
